US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1-(piperidin-1-ylmethylene)-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 50 mg (0.12 mmol) 17-hydroxywortmannin in 0.5 mL CH2Cl2 is added 20.4 mg (0.24 mmol) piperidine. The reaction mixture is stirred at room temperature overnight. CH2Cl2 is removed in vacuo. The residue is triturated with Et2O to give 33 mg (53.3%) product as an orange powder. MS (ESI) m/z 516.25 (M+1).

reactant | 17-hydroxywortmannin | 0.12 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | piperidine | 0.24 mmol, 20.4 mg | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (1E,4S,4aR,5R,6aS,7S)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1-(piperidin-1-ylmethylene)-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 33 mg, 53.3% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CCC2C=2C(C(=C3\C(\C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/N2CCCCC2)O)=O)O)C | C28H37NO8
